* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 2.70
R2 N002 N003 47.00k
R3 N002 0 12.00
R4 N003 N004 27.00
R5 N005 N004 68.00
R6 0 N004 470.00
R7 N003 N005 1.80
V1 N001 0 30

.end